US06858723B1
To a solution of 0.25 g (0.19 mmol) of the compound obtained in b in 6 ml of anhydrous DMF, 0.019 g (0.19 mmol) of succinic anhydride in 2 ml of anhydrous DMF is added in a nitrogen atmosphere under stirring. The reaction medium is maintained at ambient temperature for 5 hours, and then supplemented with 0.11 ml (0.76 mmol) of N,N′-diisopropylcarbodiimide and 0.028 g (0.19 mmol) of hydroxybenzotriazole in 2 ml of anhydrous DMF. After 30 minutes of stirring at ambient temperature, 0.089 g (0.23 mmol) of cholest-5-en-3α-ylamine (obtained in two steps from cholest-5-en-3β-ol according to the protocols described in Tetrahedron Lett. (1977), pp. 1977-1980 [10]) is added. The reaction medium is left under stirring at ambient temperature for 48 hours, hydrolysed by adding 0.30 ml of water and concentrated under reduced pressure. The residual solid is purified by silica gel column chromatography (60 Fluka silica gel; eluent: CH2Cl2—MeOH 95:5 followed by 9:1 (v/v)). 0.24 g of mono-6-(cholest-5-en-3α-ylamide)succinylamide-6-deoxy-2,2′,2″,2′″, 2″″,2′″″,2″″″,6′,6″,6′″,6″″,6′″″,6″″″-trideca-O-methyl-cyclomaltoheptaose is collected.

reactant | succinic anhydride | 0.19 mmol, 0.019 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | N,N′-diisopropylcarbodiimide | 0.76 mmol, 0.11 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | hydroxybenzotriazole | 0.19 mmol, 0.028 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | cholest-5-en-3β-ol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C27H46O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | cholest-5-en-3α-ylamine | 0.23 mmol, 0.089 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](CC[C@]4(C)[C@H]3CC[C@]12C)N | C27H47N
